US04652573
B. 2-(2,5-dimethylpyrrolyl)ethyl acetoacetate
A mixture of 28 g (0.20 mol) of 1-(2-hydroxyethyl)-2,5-dimethylpyrrole and 31.2 g (0.24 mol) of ethyl acetoacetate was heated at 145° C. for six hours. Residual ethanol was removed in vacuo and kugelrohr distillation of the residue gave 27 g (61%) of a pale green oil. NMR: (CDCl3) δ 2.1 (9H, s), 3.3 (2H, s), 4.0 (4H, m) 5.6 (2H, s).

reactant | 1-(2-hydroxyethyl)-2,5-dimethylpyrrole | 0.20 mol, 28 g | OCCN1C(=CC=C1C)C | C8H13NO
reactant | ethyl acetoacetate | 0.24 mol, 31.2 g | C(CC(=O)C)(=O)OCC | C6H10O3
product | 2-(2,5-dimethylpyrrolyl)ethyl acetoacetate | 27 g, 61% | C(CC(=O)C)(=O)OCCC1=C(NC(=C1)C)C | C12H17NO3
